US05175157
2-[(N-(3-(3-Methyl-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 3-(3-methyl-phenoxy)-1- chloro-propane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | C16H20N2O3
reactant | 3-(3-methyl-phenoxy)-1- chloro-propane | CC=1C=C(OCCCCl)C=CC1 | C10H13ClO
product | 2-[(N-(3-(3-Methyl-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.CC=1C=C(OCCCN2CC(CCC2)CN2C(C3=CC4=C(C=C3CC2)OCO4)=O)C=CC1 | InChI=1S/C26H32N2O4.ClH/c1-19-5-2-7-22(13-19)30-12-4-10-27-9-3-6-20(16-27)17-28-11-8-21-14-24-25(32-18-31-24)15-23(21)26(28)29;/h2,5,7,13-15,20H,3-4,6,8-12,16-18H2,1H3;1H
